US05371069
In a fashion similar to that described in Example 3, p-tolualdehyde was condensed with diethyl L-tartrate to provide (4R,5R)-2-(4-methylphenyl)-4,5-dicarboethoxy-1,3-dioxolane, an oil, GLC analysis: 93%, [α]D25 -9.6° (c,0.1,methanol), 1H-NMR (CDCl3)δ7.47 (2H,d,J=8.0 Hz), 7.18 (2H,d,J=8.0 Hz) 6.12 (1H,s), 4.93 (1H,d,J=4.0 Hz), 4.81 (1H,d,J=7.2 Hz), 4.34-4.22 (4H,2 q, overlapping, J=7.2 Hz), 2.34 (3H, s), 1.35-1.26 (6H 2 t, overlapping, J=7.2 Hz). IR (film) 2980, 1740, 1615 cm-1. MS m/e (% abundance) 308(2), 293(1), 279(1), 235(12), 136(68), 119(100), 105(50), 91(20), 77(8), 43(6).

reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | diethyl L-tartrate | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
product | (4R,5R)-2-(4-methylphenyl)-4,5-dicarboethoxy-1,3-dioxolane | CC1=CC=C(C=C1)C1O[C@H]([C@@H](O1)C(=O)OCC)C(=O)OCC | C16H20O6
